US07615569B2
5.5.a Preparation of 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-3,4-dihydro-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide, 37
4-[6-(2,4-Dichloro-phenoxy)-3-oxo-hex-1-enyl]-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (0.259 mmol) and hydrazine (2 mL) was heated to 80° C. in ethanol (15 mL) for 2 h. The solution was concentrated in vacuo. The crude 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-3,4-dihydro-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide was used without further purification.

reactant | 4-[6-(2,4-Dichloro-phenoxy)-3-oxo-hex-1-enyl]-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 0.259 mmol | ClC1=C(OCCCC(C=CC2=CC=C(C=C2)S(=O)(=O)N(C=2SC=CN2)COC)=O)C=CC(=C1)Cl | C23H22Cl2N2O5S2
reactant | hydrazine | 2 mL | NN | H4N2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-3,4-dihydro-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | ClC1=C(OCCCC=2CC(NN2)C2=CC=C(C=C2)S(=O)(=O)N(C=2SC=CN2)COC)C=CC(=C1)Cl | C23H24Cl2N4O4S2
